US06486190B1
A mixture of N-acetyl-3,5-dimethyl-2,4-dinitroaniline (14.6 g, 57 mmol) and sodium methoxide (25 wt % solution in methanol) (26 mL) and methanol (200 mL) is heated to reflux for 90 minutes. The mixture is rotary evaporated and the residue is partitioned between water and chloroform. The organic layer is dried (magnesium sulfate) and rotary evaporated. The residue is purified by flash chromatography on silica gel (25% ethyl acetateihexane) to afford 3,5-dimethyl-2,4-dinitroaniline (8.0 g) as an orange solid.

reactant | N-acetyl-3,5-dimethyl-2,4-dinitroaniline | 57 mmol, 14.6 g | C(C)(=O)NC1=C(C(=C(C(=C1)C)[N+](=O)[O-])C)[N+](=O)[O-] | C10H11N3O5
reactant | sodium methoxide | 26 mL | C[O-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 3,5-dimethyl-2,4-dinitroaniline | 8.0 g | CC=1C(=C(N)C=C(C1[N+](=O)[O-])C)[N+](=O)[O-] | C8H9N3O4
